US07446127B2
Step A: Preparation of tert-butyl-7-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]chromane-3-carboxylate
To a stirred solution of 4-(chloromethyl)-5-methyl-2-phenyl-1,3-oxazole (103.5 mg, 0.5 mmol) and potassium carbonate (138.4 mg, 1 mmol), tert-butyl 7-hydroxychromane-3-carboxylate (125 mg, 0.5 mmol) was added and the reaction mixture was stirred at room temperature for 48 hrs. Water (50 ml) was added and the precipitated product was extracted with 25 ml of diethyl ether. Ether layer was washed with water (25 ml) twice and dried. On evaporation of solvent, the product was obtained as pale yellow gum (150 mg, 36%).

reactant | 4-(chloromethyl)-5-methyl-2-phenyl-1,3-oxazole | 0.5 mmol, 103.5 mg | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | potassium carbonate | 1 mmol, 138.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 7-hydroxychromane-3-carboxylate | 0.5 mmol, 125 mg | OC1=CC=C2CC(COC2=C1)C(=O)OC(C)(C)C | C14H18O4
solvent | Water | 50 ml | O | H2O
product | tert-butyl-7-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]chromane-3-carboxylate | 150 mg, 36% | C(C)(C)(C)OC(=O)C1COC2=CC(=CC=C2C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H27NO5
